US07459263B2
Finally, propyl thioxanthen-9-one-2-carboxylate (S-20) was prepared. Thioxanthen-9-one-2-carboxylic acid (35 g, 137 mmol) was suspended in a mixture of toluene (250 mL), n-propanol (250 mL), and concentrated sulfuric acid (2 mL) and heated at reflux with stirring for 3 d. The reaction mixture was concentrated, and the resulting solid residue was washed with water and dried. The product was purified by recrystallization from heptane to provide 26.6 g (65% of theory) of a pale yellow solid.

reactant | Thioxanthen-9-one-2-carboxylic acid | 137 mmol, 35 g | C1=C(C=CC=2SC3=CC=CC=C3C(C12)=O)C(=O)O | C14H8O3S
reactant | n-propanol | 250 mL | C(CC)O | C3H8O
reactant | sulfuric acid | 2 mL | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | propyl thioxanthen-9-one-2-carboxylate | C1=C(C=CC=2SC3=CC=CC=C3C(C12)=O)C(=O)OCCC | C17H14O3S
